US04144235
A 6.60 g. portion of 4-ethoxy-3-thiophenecarbonyl chloride in 50 ml of methylene chloride is added dropwise to a solution of 5.48 g. of 2,2'-(dithio)bis[5-chloroaniline] and 3.54 g. of triethylamine in 100 ml of methylene chloride as in Example 14. After filtration through magnesium silicate, the filtrate was concentrated to dryness and the residue was recrystallized from methylene chloride:petroleum ether to give 2',2"'-(dithio)-bis[5'-chloro-4-ethoxy-3-thiophenecarboxanilide] as yellow crystals, m.p. 179°-181° C.

reactant | 4-ethoxy-3-thiophenecarbonyl chloride | C(C)OC=1C(=CSC1)C(=O)Cl | C7H7ClO2S
reactant | 2,2'-(dithio)bis[5-chloroaniline] | ClC=1C=CC(=C(N)C1)SSC1=C(N)C=C(C=C1)Cl | C12H10Cl2N2S2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2',2"'-(dithio)-bis[5'-chloro-4-ethoxy-3-thiophenecarboxanilide] | ClC=1C=CC(=C(NC(=O)C2=CSC=C2OCC)C1)SSC1=C(NC(=O)C2=CSC=C2OCC)C=C(C=C1)Cl | C26H22Cl2N2O4S4
